US04644061
A solution of 1,2,3-thiadiazol-4-ylmethanol (0.75 g, 6.5 mmol) in dichloromethane (20 mL) was cooled to 5° C. under a nitrogen atmosphere and treated with triethylamine (1.018 mL, 7.3 mmol) and methanesulfonyl chloride (0.565 mL, 7.3 mmol). After 15 min, the ice-bath was removed and the reaction mixture was stirred for 2 h. The solution was washed with 1N hydrochloric acid solution (2×2 mL) and water, dried (MgSO4 +MgO) and concentrated. The residue was purified by chromatography (silica gel column 1.5×21 cm) with ether as eluting solvent to give 0.90 g (71%) of 1,2,3-thiadiazol-4-ylmethanol methanesulfonate; ir (film)νmax : 1350 (SO2) cm-1, 1172 (SO2) cm-1 ; 1Hmr (CDCl3)δ: 3.09 (3H, s, CH3), 5.75 (2H, s, CH2), 8.72 (1H, s, H of thiadiazole); uv (CH2Cl2)λmax : 251 (ε1990). Anal. calcd for C6H6N2O3S: C 24.73, H 3.11, N 14.42, S 33.02; found: C 24.78 H 3.09, N 14.66, S 31.94 and 0.13 g (19%) of di-(1,2,3-thiadiazol-4-ylmethyl)ether; ir (film)νmax : 1272, 1242, 1200, 986, 805, 728 cm-1 ; 1Hmr (CDCl3)δ: 5.16 (s, 4H, CH2), 8.42 (s, 2H, H's of thiadiazole).

reactant | 1,2,3-thiadiazol-4-ylmethanol | 6.5 mmol, 0.75 g | S1N=NC(=C1)CO | C3H4N2OS
reactant | triethylamine | 7.3 mmol, 1.018 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 7.3 mmol, 0.565 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1,2,3-thiadiazol-4-ylmethanol methanesulfonate | 0.90 g, 71% | CS(=O)(=O)OCC=1N=NSC1 | C4H6N2O3S2
